US04014883
Preparation of 3-azido-4-phenylcarbostyril
To a hot solution of 98.5 g. of 2'-benzoyl-2-bromo-acetanilide in 2 l methanol was added in one portion 39.0 g. of sodium azide. The mixture was heated to a slow reflux on a steam bath for 20 minutes. As the mixture cooled partially to room temperature, 18 ml. of benzyltrimethylammonium hydroxide (35% methanolic solution) was added. After standing overnight at room temperature, the orange-yellow needles that formed were collected, washed with methanol and dried at 60° C.; yield 76.6 g. (94%) of 3-azido-4-phenylcarbostyril, having a melting point of 120° - 140° dec. to high melting solid.

reactant | 2'-benzoyl-2-bromo-acetanilide | C(C1=CC=CC=C1)(=O)C1=C(NC(CBr)=O)C=CC=C1 | C15H12BrNO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | 2 l | CO | CH4O
product | 3-azido-4-phenylcarbostyril | N(=[N+]=[N-])C=1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C15H10N4O
